US04497650
2-Cyclopropyl-1,2-dihydro-2,3-dimethyl-1,3,5-triazino[1,2-a]benzimidazol-4(3H)-one
2-Aminobenzimidazole, cyclopropyl methyl ketone and methyl isocyanate were reacted as in Example 26 using THF as a cosolvent with the excess ketone. Working up the reaction mixture gave none of the expected 10-N-methylcarbamoyl derivative of the title compound but, rather, the title compound itself, recrystallized from acetone to give a solid, mp 200° C. (dec.). The confirmatory elemental analysis is shown in Table III.

reactant | 2-Aminobenzimidazole | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
reactant | cyclopropyl methyl ketone | CC(=O)C1CC1 | C5H8O
reactant | methyl isocyanate | CN=C=O | C2H3NO
solvent | THF | C1CCOC1 | C4H8O
product | 2-Cyclopropyl-1,2-dihydro-2,3-dimethyl-1,3,5-triazino[1,2-a]benzimidazol-4(3H)-one | C1(CC1)C1(NC2=NC3=C(N2C(N1C)=O)C=CC=C3)C | C14H16N4O
